US07645753B2
4-(Oxazolo[5,4-b]pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To oxazolo[5,4-b]pyridine-2-thiol (1.0 g, 6.57 mmol, 1.0 equiv) was added thionyl chloride (14.1 g, 8.6 mL, 118.3 mmol, 18.0 equiv) and anhydrous DMF (0.56 g, 0.56 mL, 7.23 mmol, 1.1 equiv) and the reaction mixture heated to reflux for 30 min. The solvent was removed under reduced pressure and the crude oil azeotroped twice with xylene to remove excess thionyl chloride. To the crude reaction product was added 4-amino-piperidine-1-carboxylic acid tert-butyl ester (1.97 g, 9.86 mmol, 1.5 equiv) in anhydrous DMF (5 mL) and the solution heated to 60° C. for 18 h. The solution was concentrated by evaporation under reduced pressure and the crude reaction product purified with column chromatography on silica eluting with ethyl acetate/hexane (1:1) to give 0.40 g (19%) of the title compound. 1H NMR (300 MHz, DMSO): δ 1.34 (s, 9H), 1.26-1.40 (m, 2H), 1.84-1.92 (m, 2H), 2.82-2.95 (m, 2H), 3.67-3.76 (m, 1H), 3.82-3.84 (m, 2H), 7.13 (t, J=7.0 Hz, 1H), 7.52 (dd, J=7.0 Hz, J=1.8 Hz, 1H), 7.79 (dd, J=7.0 Hz, J=1.8 Hz, 1H), 8.23 (d, J=7.6 Hz, 1H).

reactant | oxazolo[5,4-b]pyridine-2-thiol | 6.57 mmol, 1.0 g, 1.0 equiv | N1=C(OC2=NC=CC=C21)S | C6H4N2OS
reactant | thionyl chloride | 118.3 mmol, 8.6 mL, 14.1 g, 18.0 equiv | S(=O)(Cl)Cl | Cl2OS
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 9.86 mmol, 1.97 g, 1.5 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 7.23 mmol, 0.56 mL, 0.56 g, 1.1 equiv | CN(C)C=O | C3H7NO
product | 4-(Oxazolo[5,4-b]pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.40 g, 19% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1OC2=NC=CC=C2N1 | C16H22N4O3
